US05679557
To 274 mg (1.00 mmol) of (S)-[2-(3,4-dimethoxyphenyl)-1-methylethyl methanesulfonate] was added 206 mg (1.20 mmol) of (R)-2-amino-1-(3-chlorophenyl)ethanol, and the mixture was stirred at 60° C. for 24 hours. The reaction mixture was added with a 10% aqueous solution of sodium hydroxide to be alkaline, and extracted twice with 30 ml of toluene. The toluene extract was dried over anhydrous sodium sulfate, and subjected to distillation of the solvent and to purification with silica gel chromatography to give 161 mg of 1-(3-chlorophenyl)-2-[[2-(3,4-dimethoxyphenyl)-1-methylethyl]amino]ethanol as white crystals (yield: 46%). As a result of isolating and analyzing the isomers by high performance liquid chromatography using an optical resolution column (column: Chiralpack AD (trade name), Daicel Chemical Industries, Ltd.), the optical purity of the title compound was 95.8% [(R,R)/(R,S)=95.8/4.2].

reactant | (S)-[2-(3,4-dimethoxyphenyl)-1-methylethyl methanesulfonate] | 1.00 mmol, 274 mg | COC=1C=C(C=CC1OC)C[C@H](C)CS(=O)(=O)[O-]
reactant | (R)-2-amino-1-(3-chlorophenyl)ethanol | 1.20 mmol, 206 mg | NC[C@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(3-chlorophenyl)-2-[[2-(3,4-dimethoxyphenyl)-1-methylethyl]amino]ethanol | 161 mg, yield: 46% | ClC=1C=C(C=CC1)C(CNC(CC1=CC(=C(C=C1)OC)OC)C)O | C19H24ClNO3
